US08377970B2
N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}-2-methyl nicotinamide hydrochloride
Following the general procedure-1, N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}-2-methylnicotinamide (35 mg) was prepared from 2-methylnicotinic acid (110 mg, 0.80 mmol) and intermediate 36 (150 mg, 0.5 mmol) as a white solid and dissolved in THF. Saturated HCl in diethyl ether was added to this solution at 0° C. and stirred for 15 min Solid that separated out was filtered and dried to give the title compound (20 mg) as a white solid. M.P.: 241-245° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 11.15 (s, 1H), 8.89 (d, J 2.5, 1H), 8.74 (d, J 4.1 1H), 8.42 (dd, J 2.6, 8.8, 1H), 8.32 (d, J 7.7, 1H), 7.83 (d, J 8.8, 1H), 7.72-7.64 (m, 1H), 6.65 (s, 1H), 2.70 (s, 3H), 2.58-2.50 (m, 1H), 1.00-0.95 (m, 2H), 0.81-0.76 (m, 2H). MS (m/z): 385.64 [M−H—HCl]−.

reactant | N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}-2-methylnicotinamide | 35 mg | C1(CC1)C1=CC(=NN1C1=CC=C(C=N1)NC(C1=C(N=CC=C1)C)=O)C(F)(F)F | C19H16F3N5O
reactant | 2-methylnicotinic acid | 0.80 mmol, 110 mg | CC1=C(C(=O)O)C=CC=N1 | C7H7NO2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}-2-methyl nicotinamide hydrochloride | 20 mg | Cl.C1(CC1)C1=CC(=NN1C1=CC=C(C=N1)NC(C1=C(N=CC=C1)C)=O)C(F)(F)F | InChI=1S/C19H16F3N5O.ClH/c1-11-14(3-2-8-23-11)18(28)25-13-6-7-17(24-10-13)27-15(12-4-5-12)9-16(26-27)19(20,21)22;/h2-3,6-10,12H,4-5H2,1H3,(H,25,28);1H
